US07160867B2
2-O-methyl-β-D-fructopyranose
A solution of sodium methoxide (0.5 M in methanol, 10.0 ml) was added to a vigorously stirred solution of 1,3,4,5-tetra-O-benzoyl-2-O-methyl-β-D-fructopyranose (10.0 g, 16.4 mmol) in anhydrous methanol. After stirring for 1.5 hrs at room temperature the reaction was complete. The pH was adjusted to 7.0 with Amberlite IRC-50 (˜4.0 g). The solids were removed by filtration and the filtrate was concentrated in vacuo. Purification on a silica gel column (methanol:dichloromethane, 4:1 and 3:1) provided the product as white foam 2.70 g (81%).

reactant | sodium methoxide | 0.5 M, 10.0 ml | C[O-].[Na+]
reactant | 1,3,4,5-tetra-O-benzoyl-2-O-methyl-β-D-fructopyranose | 16.4 mmol, 10.0 g | C(C1=CC=CC=C1)(=O)OC[C@]1(OC)[C@@H](OC(C2=CC=CC=C2)=O)[C@H](OC(C2=CC=CC=C2)=O)[C@H](OC(C2=CC=CC=C2)=O)CO1 | C35H30O10
solvent | methanol | CO | CH4O
product | 2-O-methyl-β-D-fructopyranose | 2.70 g, 81% | CO[C@@]1(CO)[C@@H](O)[C@H](O)[C@H](O)CO1 | C7H14O6
